US04627871
11.8 g (0.1 mole) of α-methoxy-isobutyric acid were dissolved in 150 ml of tetrahydrofuran, and 10.1 g (0.1 mole) of triethylamine were added. 10.85 g (0.1 mole) of carbonic acid ethyl ester-chloride were added dropwise at 10°-15° C., with stirring. The mixture was subsequently stirred at room temperature for 2 hours and 23.1 g (0.1 mole) of 2-(4-aminophenylmercapto)-4,6-dimethyl-pyrimidine were then added in portions. The mixture was subsequently stirred at room temperature for 1 hour and boiled under reflux for a further 2 hours. The reaction mixture was cooled and then stirred into one liter of water rendered slightly acid with hydrochloric acid. The crystals precipitated were filtered off with suction, washed with water and dried in air. 27.4 g (83% of theory) of 2-(4-(α-methoxy-isobutyrylamino)-phenylmercapto)-4,6-dimethyl-pyrimidine were obtained.

reactant | α-methoxy-isobutyric acid | 0.1 mole, 11.8 g | COC(C(=O)O)(C)C | C5H10O3
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | carbonic acid ethyl ester-chloride | 0.1 mole, 10.85 g | [Cl-].C(C)OC(O)=O
reactant | 2-(4-aminophenylmercapto)-4,6-dimethyl-pyrimidine | 0.1 mole, 23.1 g | NC1=CC=C(C=C1)SC1=NC(=CC(=N1)C)C | C12H13N3S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | one liter | O | H2O
product | 2-(4-(α-methoxy-isobutyrylamino)-phenylmercapto)-4,6-dimethyl-pyrimidine | 27.4 g, 83% | COC(C(=O)NC1=CC=C(C=C1)SC1=NC(=CC(=N1)C)C)(C)C | C17H21N3O2S
